US07314888B1
To a solution of 0.17 g of 1,3-diisopentyl-2-oxo-2,3-dihydro-1H-benzimidazole-5-carboxylic acid in 9 ml of methylene chloride are added 60 μl of oxalyl chloride and 20 μl of N,N-dimethylformamide successively. The mixture thus obtained is stirred at ambient temperature for 2 hours. Then, 0.42 g of aluminum chloride and 0.38 g of isopentyl 2-(2-isopentyloxyphenyl)acetate are successively added at ambient temperature, and the mixture thus obtained is stirred at the same temperature as above for 30 minutes. The reaction mixture is added to a mixture of methylene chloride and ice water, and the organic layer is separated. The organic layer thus obtained is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue is purified by silica gel column chromatography (eluent; hexane:ethyl acetate=5:1) to obtain 0.29 g of isopentyl 2-[5-[(1,3-diisopentyl-2-oxo-2,3-dihydro-1H-benzimidazol-5-yl)carbonyl]-2-(isopentyloxy)phenyl]acetate as a light yellow oily product.

reactant | 1,3-diisopentyl-2-oxo-2,3-dihydro-1H-benzimidazole-5-carboxylic acid | 0.17 g | C(CC(C)C)N1C(N(C2=C1C=CC(=C2)C(=O)O)CCC(C)C)=O | C18H26N2O3
reactant | oxalyl chloride | 60 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | aluminum chloride | 0.42 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | isopentyl 2-(2-isopentyloxyphenyl)acetate | 0.38 g | C(CC(C)C)OC1=C(C=CC=C1)CC(=O)OCCC(C)C | C18H28O3
solvent | methylene chloride | 9 ml | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 20 μl | CN(C=O)C | C3H7NO
product | isopentyl 2-[5-[(1,3-diisopentyl-2-oxo-2,3-dihydro-1H-benzimidazol-5-yl)carbonyl]-2-(isopentyloxy)phenyl]acetate | 0.29 g | C(CC(C)C)N1C(N(C2=C1C=CC(=C2)C(=O)C=2C=CC(=C(C2)CC(=O)OCCC(C)C)OCCC(C)C)CCC(C)C)=O | C36H52N2O5
